US06638929B2
To a solution of 0.72 g (2.49 mmol) of 3-amino-6-hydroxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester in 7.5 ml of tetrahydrofuran is added 0.46 mL (3.74 mmol) of 4-(2-hydroxyethyl)morpholine, followed by the addition of 1.34 g (4.98 mmol) of diphenyl-2-pyridylphosphine and 0.6 mL (3.87 mmol) of diethyl azadicarboxylate. The resulting mixture is stirred at room temperature for 1.5 hours, quenched with water, diluted with ethyl acetate and the two layers are separated. The organic layer is extracted with 0.2N hydrochloric acid. After neutralizing the aqueous layer with a saturated solution of sodium bicarbonate, it is extracted with ethyl acetate. The ethyl acetate extract is dried over anhydrous sodium sulfate, filtered and evaporated to yield a brown oil. The oil is purified by silica gel chromatography, utilizing a gradient of ethyl acetate/hexane (85:15 to 100:0), to give 0.7 g of 3-amino-7-methoxy-6-(2-morpholin-4-yl-ethoxy)-naphthalene-2-carboxylic acid tert-butyl ester as an orange solid, mp 125-127° C.

reactant | 3-amino-6-hydroxy-7-methoxynaphthalene-2-carboxylic acid tert-butyl ester | 2.49 mmol, 0.72 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N)O)OC | C16H19NO4
reactant | 4-(2-hydroxyethyl)morpholine | 3.74 mmol, 0.46 mL | OCCN1CCOCC1 | C6H13NO2
reactant | diphenyl-2-pyridylphosphine | 4.98 mmol, 1.34 g | C1(=CC=CC=C1)P(C1=NC=CC=C1)C1=CC=CC=C1 | C17H14NP
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | 3-amino-7-methoxy-6-(2-morpholin-4-yl-ethoxy)-naphthalene-2-carboxylic acid tert-butyl ester | 0.7 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N)OCCN1CCOCC1)OC | C22H30N2O5
